US07528164B2
2-Amino-3-cyano-4-(4,5-dimethoxy-3-iodophenyl)-7-methyl-4H-pyrrolo[2,3-h]chromene
The title compound was prepared from 4-hydroxy-1-methylindole (40 mg, 0.27 mmol), 4,5-dimethoxy-3-iodo-benzaldehyde (80 mg, 0.27 mmol) and malononitrile (18 mg, 0.27 mmol) similar to Example 24 to yield 91 mg (69%) of white solids. 1H NMR (CDCl3): 7.19 (d, J=1.8 Hz, 1H), 7.07-7.02 (m, 2H), 6.77-6.74 (m, 2H), 6.57 (d, J=3.3 Hz, 1H), 4.76 (s, 1H), 4.69 (brs, 2H), 3.81-3.78 (m, 9H).

reactant | 4-hydroxy-1-methylindole | 0.27 mmol, 40 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | 4,5-dimethoxy-3-iodo-benzaldehyde | 0.27 mmol, 80 mg | COC1=C(C=C(C=O)C=C1OC)I | C9H9IO3
reactant | malononitrile | 0.27 mmol, 18 mg | C(CC#N)#N | C3H2N2
product | 2-Amino-3-cyano-4-(4,5-dimethoxy-3-iodophenyl)-7-methyl-4H-pyrrolo[2,3-h]chromene | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)I)N(C=C3)C | C21H18IN3O3
